US05847004
N-Methyl-D-glucamine and carbon disulfide were obtained from Aldrich (Milwaukee, Wis.). N-Methyl-D-glucamine dithiocarbamate (MGD) was synthesized by following the method of Shinobu et al. (Acta Pharmacol. Toxicol. 54:189-194 (1984)).

reactant | N-Methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
reactant | carbon disulfide | C(=S)=S | CS2
product | N-Methyl-D-glucamine dithiocarbamate | C(N)(S)=S.CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | InChI=1S/C7H17NO5.CH3NS2/c1-8-2-4(10)6(12)7(13)5(11)3-9;2-1(3)4/h4-13H,2-3H2,1H3;(H3,2,3,4)/t4-,5+,6+,7+;/m0./s1
